US04292394
2,2'-bis(2-chlorophenyl)-4,4',5,5'-tetraphenylbiimidazole;
2,2'-bis(2-chlorophenyl)-4,4',5,5'-tetrakis(3-methoxyphenyl)biimidazole; 2,2'-bis(2-methoxyphenyl)-4,4',5,5-tetraphenylbiimidazole; etc.

reactant | 2,2'-bis(2-chlorophenyl)-4,4',5,5'-tetrakis(3-methoxyphenyl)biimidazole | ClC1=C(C=CC=C1)C1(N=C(C(=N1)C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC)C1(N=C(C(=N1)C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC)C1=C(C=CC=C1)Cl | C46H36Cl2N4O4
reactant | 2,2'-bis(2-methoxyphenyl)-4,4',5,5-tetraphenylbiimidazole | COC1=C(C=CC=C1)C1(NC(C(=N1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1(N=CC(=N1)C1=CC=CC=C1)C1=C(C=CC=C1)OC | C44H36N4O2
product | 2,2'-bis(2-chlorophenyl)-4,4',5,5'-tetraphenylbiimidazole | ClC1=C(C=CC=C1)C1(N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C1(N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)Cl | C42H28Cl2N4
